2168-03-29 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2168-3-28**] 05:00 PM
 EKG - At [**2168-3-28**] 06:00 PM
 NASAL SWAB - At [**2168-3-29**] 06:10 AM
   Allergies:
   Codeine
   Unknown;
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2168-3-29**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-3-29**] 04:00 AM
   Vancomycin - [**2168-3-29**] 07:42 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2168-3-28**] 10:40 PM
   Heparin Sodium (Prophylaxis) - [**2168-3-29**] 12:00 AM
   Morphine Sulfate - [**2168-3-29**] 05:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-29**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.8
   HR: 109 (105 - 113) bpm
   BP: 97/53(63) {87/43(54) - 139/64(77)} mmHg
   RR: 32 (32 - 44) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 10 (5 - 14)mmHg
   CO/CI (Fick): (72.7 L/min) / (39.9 L/min/m2)
   SvO2: 80%
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  1,143 mL
                                                                    729 mL
   PO:
   TF:
   IVF:
                                                                  1,143 mL
                                                                    729 mL
   Blood products:
   Total out:
                                                                    385 mL
                                                                    370 mL
   Urine:
                                                                    385 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    758 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 85%
   ABG: ///24/
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l bases, R > L,
   Rhonchorous: b/l), egophany L base
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t) Tender:
   , use of abd muscles w/ expiration
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   142 K/uL
   12.0 g/dL
   150 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   18 mg/dL
   109 mEq/L
   141 mEq/L
   34.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2168-3-28**]  04:10 PM
                             [**2168-3-28**]  05:51 PM
                             [**2168-3-28**]  06:06 PM
                             [**2168-3-29**]  03:35 AM
   WBC
   4.3
   3.7
   5.4
   Hct
   37.3
   34.3
   37
   34.7
   Plt
   170
   155
   142
   Cr
   0.8
   0.7
   0.8
   Glucose
   169
   159
   150
   Other labs: PT / PTT / INR:17.2/36.0/1.6, ALT / AST:16/34, Alk Phos / T
   Bili:46/0.6, Differential-Neuts:52.0 %, Band:23.0 %, Lymph:13.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.6 mmol/L, LDH:213 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: Prelim: CXR worsening opacities at bases, cardiomegaly and
   mild pulmonary edema. +retrocardiac opacity
   .
   Portable Abd: Poor study - cannot r/o free air though none apparent, no
   clear evidence of obstruction
   Microbiology: - Blood and urine cx NGTD
   - Legionella Ag pending
   Assessment and Plan
   #  Hypoxia: DDx includes aspiration Pna vs pneumonitis. If not
   aspiration, she is also at risk for CAP. CHF is a possibility given
   congestion seen on CXR, although overall, she does not seem total body
   overloaded based on CVP and exam, Given moderate AS (valve area
   1.2-1.9), she is at risk for poor forward flow. Low suspicion for
   influenza
   - continue NRB
   - nebs RTC
   - continue currently on levaquin and clinda in ED. Would broaden to
   zosyn, levaquin, and vancomycin
   - would repeat echo in AM
   - would hold on diuresis tonight as she was recently hypotensive on
   pressors
   - DFA for influenza
   # Septic shock: currently no longer requiring pressors. Cortisol level
   in ED 58.
   - abx as above
   - f/u blood, urine cx
   - send sputum cx
   - would be very cautious with IVF given mild AS and pulm edema on CXR
   - levophed if needed
   # Bandemia: may be from pna, but given hypoactive bowel sounds and ?
   diarrhea per family, also concern for c. diff
   - empirically treat w/ flagyl
   - send c.diff
   - KUB to r/o obstruction
   # HTN: continue to monitor
   - hold home BP meds until no longer septic
   # Hypoactive bowel sounds:
   - continue to monitor
   - KUB to rule out obstruction
   # Dementia:
   - continue namenda, exelon once able to take PO's
   # PVD: s/p stenting of bilateral iliacs
   - continue plavix
   # DM:
   - continue home insulin regimen while in house
   # FEN:
   - NPO for now
   - speech and swallow eval when stable
   # PPx:
   - H2 blocker
   - SQ heparin
   - bowel regimen
   # CODE:  DNR/DNI, confirmed with son, [**Name (NI) **], who is HCP
   # COMM:  [**Name (NI) **]: [**Telephone/Fax (1) 1793**] (HCP)
   # DISP:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2168-3-28**] 05:00 PM
   18 Gauge - [**2168-3-29**] 03:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2168-03-29 09:07:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained hypoxemic overnight.  Received morphine x 2 for increased
   respiratory distress.  Family called in late in evening.
   Currently, patient continues to deny dyspnea and pain.
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Unknown;
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-3-29**] 04:00 AM
   Vancomycin - [**2168-3-29**] 07:42 AM
   Metronidazole - [**2168-3-29**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-3-29**] 12:00 AM
   Morphine Sulfate - [**2168-3-29**] 05:03 AM
   Famotidine (Pepcid) - [**2168-3-29**] 08:39 AM
   Other medications:
   Not receiving oral meds.  ABX: vanco, Zosyn, levo, flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-29**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 109 (105 - 113) bpm
   BP: 97/53(63) {87/43(54) - 139/64(77)} mmHg
   RR: 32 (32 - 44) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
   CVP: 10 (5 - 14)mmHg
   CO/CI (Fick): (72.7 L/min) / (39.9 L/min/m2)
   SvO2: 80%
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  1,143 mL
                                                                    888 mL
   PO:
   TF:
   IVF:
                                                                  1,143 mL
                                                                    888 mL
   Blood products:
   Total out:
                                                                    385 mL
                                                                    470 mL
   Urine:
                                                                    385 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    758 mL
                                                                    418 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 85%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), obscured by breath sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Crackles
   : , Wheezes : , Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   142 K/uL
   150 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   18 mg/dL
   109 mEq/L
   141 mEq/L
   34.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2168-3-28**]  04:10 PM
                             [**2168-3-28**]  05:51 PM
                             [**2168-3-28**]  06:06 PM
                             [**2168-3-29**]  03:35 AM
   WBC
   4.3
   3.7
   5.4
   Hct
   37.3
   34.3
   37
   34.7
   Plt
   170
   155
   142
   Cr
   0.8
   0.7
   0.8
   Glucose
   169
   159
   150
   Other labs: PT / PTT / INR:17.2/36.0/1.6, ALT / AST:16/34, Alk Phos / T
   Bili:46/0.6, Differential-Neuts:52.0 %, Band:23.0 %, Lymph:13.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.6 mmol/L, LDH:213 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: line in place.  Has marked progressive of bilateral
   pulmonary opacities.
   KUB: very limited study without clear evidence for obstruction
   Assessment and Plan
   78-year-old woman with development of ARDS following an apparent
   aspiration event Sunday night.  Because of her high level of bandemia,
   other infections (influenza, C diff, etc.) remain in the differential
   are less likely.
   Her film and clinical status have worsened, and our team has discussed
   the intercurrent events with her family.  Her vomiting has abated at
   this point, and we will give a trial of noninvasive ventilation.
   ARDS
   -          Most likely etiology is aspiration, although other
   infections remain in DDx
   -          trial of NIMV.  Would give her period breaks every few
   hours, since this is not likely to resolve in the next few hours.
   -          Mild diuresis
   -          antibiotics to treat possible infections as etiology
   Possible infections
   -          there is high risk for conversion to aspiration pneumonia
   -          vanco, zosyn, and quinolone for possible pneumonia (MRSA,
   resistant GNR, atypicals)
   -          check influenza DFA
   -          check C diff and treat empirically for now, given bandemia
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2168-3-28**] 05:00 PM
   18 Gauge - [**2168-3-29**] 03:16 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 min

2168-03-29 10:13:00 Physician Resident Progress Note
Chief Complaint: Pt continued to be hypoxic w/ O2 sat 80-86% on NRB.
   Received one 250cc NS bolus, two 0.5mg IV doses of morphine.
   This am, patient denies chest or abdominal pain. Not sure how her
   breathing is.
   24 Hour Events:
 PRESEP CATHETER - START [**2168-3-28**] 05:00 PM
 EKG - At [**2168-3-28**] 06:00 PM
 NASAL SWAB - At [**2168-3-29**] 06:10 AM
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Unknown;
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-3-29**] 04:00 AM
   Vancomycin - [**2168-3-29**] 07:42 AM
   Metronidazole - [**2168-3-29**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-3-29**] 12:00 AM
   Morphine Sulfate - [**2168-3-29**] 05:03 AM
   Famotidine (Pepcid) - [**2168-3-29**] 08:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Diarrhea
   Flowsheet Data as of  [**2168-3-29**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.6
C (99.7
   HR: 109 (105 - 113) bpm
   BP: 97/53(63) {87/43(54) - 139/64(77)} mmHg
   RR: 32 (32 - 44) insp/min
   SpO2: 85%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 10 (5 - 14)mmHg
   CO/CI (Fick): (72.7 L/min) / (39.9 L/min/m2)
   SvO2: 80%
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  1,143 mL
                                                                    901 mL
   PO:
   TF:
   IVF:
                                                                  1,143 mL
                                                                    901 mL
   Blood products:
   Total out:
                                                                    385 mL
                                                                    507 mL
   Urine:
                                                                    385 mL
                                                                    507 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    758 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 588 (588 - 588) mL
   PS : 8 cmH2O
   FiO2: 100%
   SpO2: 85%
   ABG: ///24/
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), S3, S4, (Murmur: No(t)
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds: Crackles
   : b/l bases, R >L, Rhonchorous: bases)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, BS diminished
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   142 K/uL
   12.0 g/dL
   150 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   18 mg/dL
   109 mEq/L
   141 mEq/L
   34.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2168-3-28**]  04:10 PM
                             [**2168-3-28**]  05:51 PM
                             [**2168-3-28**]  06:06 PM
                             [**2168-3-29**]  03:35 AM
   WBC
   4.3
   3.7
   5.4
   Hct
   37.3
   34.3
   37
   34.7
   Plt
   170
   155
   142
   Cr
   0.8
   0.7
   0.8
   Glucose
   169
   159
   150
   Other labs: PT / PTT / INR:17.2/36.0/1.6, ALT / AST:16/34, Alk Phos / T
   Bili:46/0.6, Differential-Neuts:52.0 %, Band:23.0 %, Lymph:13.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:2.6 mmol/L, LDH:213 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: Imaging: Prelim: CXR worsening opacities at bases,
   cardiomegaly and mild pulmonary edema. +retrocardiac opacity
   Portable Abd: Poor study - cannot r/o free air though none apparent, no
   clear evidence of obstruction
   Microbiology: - Blood and urine cx NGTD
   - Legionella Ag pending
   Assessment and Plan
   Assessment and Plan
   #  Hypoxia: Pt now with continued hypoxia despite high FiO2, bilateral
   patchy infiltrates worsening on CXR, and CVP 10 diagnostic for ARDS.
   Underlying etiology likely aspiration PNA vs pneumonitis (most likely
   given very early after event). If not aspiration, she is also at risk
   for CAP. CHF is a possibility given congestion seen on CXR, although
   overall, she does not seem total body overloaded based on CVP and exam,
   Given moderate AS (valve area 1.2-1.9), she is at risk for poor forward
   flow. Low suspicion for influenza.
   Patient no longer vomiting overnight, would qualify for trial of
   positive pressure ventilation
   - trial of BiPAP, supplemented with NRB
   - nebs RTC
   - to cover for CAP/aspiration PNA
 Cont. Zosyn, Levaquin, and
   Vancomycin
   - would hold on diuresis as she was recently hypotensive on pressors,
   now with SBPs in 90s
   - DFA for influenza pending
   - Legionella Ag negative
   # ?Septic shock: currently no longer requiring pressors, though with
   low MAPs. Cortisol level in ED 58.
   - abx as above
   - f/u blood, urine cx
   - send sputum cx
   - would be very cautious with IVF given mild AS and pulm edema on CXR
   - levophed if needed
   # Bandemia: may be from pna, but given hypoactive bowel sounds and ?
   diarrhea per family, also concern for c. diff. KUB poor quality, but no
   evidence of obstruction.
   - empirically treat w/ flagyl
   - send c.diff
   # HTN: continue to monitor
   - hold home BP meds until no longer septic
   # Hypoactive bowel sounds:
   - serial abdominal exams
   # Dementia:
   - continue namenda, exelon once able to take PO's
   # PVD: s/p stenting of bilateral iliacs
   - continue plavix when taking po
    # DM:
   - continue home insulin regimen while in house
   # FEN:
   - NPO for now
   - speech and swallow eval when stable
   # PPx:
   - H2 blocker
   - SQ heparin
   - bowel regimen
   # CODE:  DNR/DNI, confirmed with son, [**Name (NI) **], who is HCP
   # COMM:  [**Name (NI) **]: [**Telephone/Fax (1) 1793**] (HCP)
   # DISP:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2168-3-28**] 05:00 PM
   18 Gauge - [**2168-3-29**] 03:16 AM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:  H2 blocker
   VAP:  Sit upright in bed, good mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2168-03-30 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Made CMO.
   Allergies:
   Codeine
   Unknown;
   Niacin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2168-3-29**] 07:42 AM
   Piperacillin/Tazobactam (Zosyn) - [**2168-3-29**] 11:30 AM
   Metronidazole - [**2168-3-29**] 03:31 PM
   Infusions:
   Morphine Sulfate - 3 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2168-3-29**] 08:39 AM
   Morphine Sulfate - [**2168-3-29**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-3-30**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 110 (105 - 141) bpm
   BP: 75/42(50) {70/31(44) - 110/61(69)} mmHg
   RR: 18 (18 - 50) insp/min
   SpO2: 74%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 66 Inch
    CVP: 9 (5 - 15)mmHg
   Mixed Venous O2% Sat: 68 - 68
   Total In:
                                                                  1,254 mL
                                                                     94 mL
   PO:
   TF:
   IVF:
                                                                  1,254 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                    887 mL
                                                                    180 mL
   Urine:
                                                                    887 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    367 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 636 (588 - 636) mL
   PS : 5 cmH2O
   FiO2: 100%
   SpO2: 74%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : Throughout,
   Rhonchorous: Throughout)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   142 K/uL
   12.0 g/dL
   150 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.7 mEq/L
   18 mg/dL
   109 mEq/L
   141 mEq/L
   32
   5.4 K/uL
        [image002.jpg]
                             [**2168-3-28**]  04:10 PM
                             [**2168-3-28**]  05:51 PM
                             [**2168-3-28**]  06:06 PM
                             [**2168-3-29**]  03:35 AM
                             [**2168-3-29**]  02:33 PM
   WBC
   4.3
   3.7
   5.4
   Hct
   37.3
   34.3
   37
   34.7
   32
   Plt
   170
   155
   142
   Cr
   0.8
   0.7
   0.8
   Glucose
   169
   159
   150
   Other labs: PT / PTT / INR:17.2/36.0/1.6, ALT / AST:16/34, Alk Phos / T
   Bili:46/0.6, Differential-Neuts:52.0 %, Band:23.0 %, Lymph:13.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:689 mg/dL, Lactic Acid:2.3 mmol/L,
   LDH:213 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   #  Hypoxia: Pt now with continued hypoxia despite high FiO2, bilateral
   patchy infiltrates worsening on CXR, and CVP 10 diagnostic for ARDS.
   Underlying etiology likely aspiration PNA vs pneumonitis (most likely
   given very early after event). If not aspiration, she is also at risk
   for CAP. CHF is a possibility given congestion seen on CXR, although
   overall, she does not seem total body overloaded based on CVP and exam,
   Given moderate AS (valve area 1.2-1.9), she is at risk for poor forward
   flow. Low suspicion for influenza.
   Patient no longer vomiting overnight, would qualify for trial of
   positive pressure ventilation
   - trial of BiPAP, supplemented with NRB
   - nebs RTC
   - to cover for CAP/aspiration PNA
 Cont. Zosyn, Levaquin, and
   Vancomycin
   - would hold on diuresis as she was recently hypotensive on pressors,
   now with SBPs in 90s
   - DFA for influenza pending
   - Legionella Ag negative
   # ?Septic shock: currently no longer requiring pressors, though with
   low MAPs. Cortisol level in ED 58.
   - abx as above
   - f/u blood, urine cx
   - send sputum cx
   - would be very cautious with IVF given mild AS and pulm edema on CXR
   - levophed if needed
   # Bandemia: may be from pna, but given hypoactive bowel sounds and ?
   diarrhea per family, also concern for c. diff. KUB poor quality, but no
   evidence of obstruction.
   - empirically treat w/ flagyl
   - send c.diff
   # HTN: continue to monitor
   - hold home BP meds until no longer septic
   # Hypoactive bowel sounds:
   - serial abdominal exams
   # Dementia:
   - continue namenda, exelon once able to take PO's
   # PVD: s/p stenting of bilateral iliacs
   - continue plavix when taking po
    # DM:
   - continue home insulin regimen while in house
   # FEN:
   - NPO for now
   - speech and swallow eval when stable
   # PPx:
   - H2 blocker
   - SQ heparin
   - bowel regimen
   # CODE:  DNR/DNI, confirmed with son, [**Name (NI) **], who is HCP
   # COMM:  [**Name (NI) **]: [**Telephone/Fax (1) 1793**] (HCP)
   # DISP:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2168-3-28**] 05:00 PM
   18 Gauge - [**2168-3-29**] 03:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: